US07214677B2
B: 2-Chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(2-oxo-piperidin-1-yl)-benzamide
A mixture of 5-bromo-2-chloro-N-[2-(2-chloro-phenyl)-ethyl]-benzamide (200 mg, 0.536 mmol), δ-valerolactam (106 mg, 1.07 mmol), potassium carbonate (156 mg, 1.13 mmol), dioxane (1 ml, purged with nitrogen), and copper (I) iodide (5 mg) in an oven-dried round bottom flask equipped with a reflux condenser under a nitrogen atmosphere was heated in an oil bath at 120–125)C. After 21 hours the mixture was cooled to room temperature, filtered through a pad of silica gel and concentrated under reduced pressure to give 50 mg of crude product. Purification by preparative HPLC (Shimadsu LC-8A preparative liquid chromatograph) eluting with a gradient of 0.1% aqueous formic acid in acetonitrile provided 2.5 mg of the title compound as a colorless amorphous solid. Mass Spectrum (ES+) 391.6; LC retention time=2.3 minutes (using the LC/MS and method outlined for the examples in Table 1).

reactant | 5-bromo-2-chloro-N-[2-(2-chloro-phenyl)-ethyl]-benzamide | 0.536 mmol, 200 mg | BrC=1C=CC(=C(C(=O)NCCC2=C(C=CC=C2)Cl)C1)Cl | C15H12BrCl2NO
reactant | δ-valerolactam | 1.07 mmol, 106 mg | C1(CCCCN1)=O | C5H9NO
reactant | potassium carbonate | 1.13 mmol, 156 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper (I) iodide | 5 mg | [Cu]I
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(2-oxo-piperidin-1-yl)-benzamide | 2.5 mg | ClC1=C(C(=O)NCCC2=C(C=CC=C2)Cl)C=C(C=C1)N1C(CCCC1)=O | C20H20Cl2N2O2
